data/rdb19/train.csv
rxn,smiles,ea
4036,[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])[H:10])([H:11])([H:12])[H:13].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[C:25]1([H:33])[C:24]([H:32])[C:23]([H:31])=[C:22]([C:21](=[C:20]([H:28])[H:29])[H:30])[C:27]([H:35])=[C:26]1[H:34])([H:11])([H:12])[H:13],21.40982199390419
3263,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[H:25])([N:26]([C:27](=[O:28])[H:34])[H:33])[H:32])([H:29])([H:30])[H:31]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])[H:8].[H:9][C:23]([C:22]([C:21]([H:29])([H:30])[H:31])([N:26]([C:27](=[O:28])[H:34])[H:33])[H:32])([H:24])[H:25],21.439938813098703
2960,[C:16]([O:17][C:18](=[O:19])[C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[C:23]([H:24])[H:25])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])([H:12])[C:23]([C:20]([C:18]([O:17][C:16]([H:26])([H:27])[H:28])=[O:19])([C:21]([H:29])([H:30])[H:31])[C:22]([H:32])([H:33])[H:34])([H:24])[H:25],65.96879287582124
647,[C:19]([O:20][O:21])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])([H:12])[O:21][O:20][C:19]([H:22])([H:23])[H:24],69.20014601323055
1110,[C:14]([C:15](=[O:16])[O:17][C:18](=[C:19]([H:24])[H:25])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:19]([C:18]([O:17][C:15]([C:14]([H:20])([H:21])[H:22])=[O:16])[H:23])([H:24])[H:25],29.294097914069425
876,[C:19]([C:20]([C:21]([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38])([H:32])[H:33])([H:29])([H:30])[H:31].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])[H:9].[H:10][C:21]([C:20]([C:19]([H:29])([H:30])[H:31])([H:32])[H:33])([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38],29.40068069886184
1026,[C:14]([C:15](=[C:16]([H:23])[H:24])[C:17](=[O:18])[O:19][H:25])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([C:15](=[C:16]([H:23])[H:24])[C:17]=[O:18])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])([H:5])[O:19][H:25])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],49.249932408565655
2452,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[O:10])[O:11][C:12](=[C:13]([H:18])[H:19])[H:17])([H:14])([H:15])[H:16]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:12]([O:11][C:9]([C:8]([H:14])([H:15])[H:16])=[O:10])([C:13]([H:18])[H:19])[H:17],38.77166437366395
5203,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[N:29]([C:30](=[O:31])[H:38])[H:37])([H:35])[H:36])([H:32])([H:33])[H:34]>>[C:1]([C:2]([C:3]([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:4]([H:17])([H:18])([H:19])[C:27]([C:26]([C:25]([H:32])([H:33])[H:34])([H:35])[H:36])([H:28])[N:29]([C:30](=[O:31])[H:38])[H:37],53.789083473267965
2600,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([C:23]([H:36])([H:37])[H:38])[H:35])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43],72.47940439276863
2340,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[C:8]([H:14])([H:15])[H:16].[H:5][C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18],87.7354063403618
